US05882543
A dehydrating compound was prepared by the dropwise addition of octyldimethylchlorosilane to an equal molar solution of 2,2,6,6-tetramethyl-3,5-heptanedione and triethylamine in ethyl ether. The mixture was heated until it refluxed for a period of 6 hours, and filtered to remove salts. The solvent was removed under reduced pressure to yield 3-(octyldimethylsiloxy)-2,2,6,6-tetramethylhept-3-ene-5-one.

reactant | octyldimethylchlorosilane | C(CCCCCCC)[Si](Cl)(C)C | C10H23ClSi
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethyl ether | C(C)OCC | C4H10O
product | 3-(octyldimethylsiloxy)-2,2,6,6-tetramethylhept-3-ene-5-one | C(CCCCCCC)[Si](OC(C(C)(C)C)=CC(C(C)(C)C)=O)(C)C | C21H42O2Si
